US07456285B2
28 mg (<5 mol %) of zinc(II) chloride and 4.4 g (61.5 mmol) of pyrrolidine are added in succession to a mixture of 1.1 g (4.1 mmol) of 4′-chloro-[2,2′;6′,2″]terpyridine in 15 ml of 2-methyl-2-butanol. The mixture is heated at reflux for 20 hours, cooled and filtered. After recrystallisation from toluene, pure 4′-pyrrolidin-1-yl-[2,2′;6′,2″]terpyridine is obtained in the form of a white solid. MS (EI, 70 eV): m/z=303 (15); 302 (90, [M+]); 273 (100); 233 (25).

reactant | pyrrolidine | 61.5 mmol, 4.4 g | N1CCCC1 | C4H9N
reactant | 4′-chloro-[2,2′;6′,2″]terpyridine | 4.1 mmol, 1.1 g | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
solvent | 2-methyl-2-butanol | 15 ml | CC(C)(CC)O | C5H12O
catalyst | zinc(II) chloride | 28 mg | [Cl-].[Zn+2].[Cl-]
product | 4′-pyrrolidin-1-yl-[2,2′;6′,2″]terpyridine | N1(CCCC1)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C19H18N4
